### PR TITLE
[Merged by Bors] - feat(Mathlib/Tactic/PushNeg): implement the `push_neg` tactic

### PR DESCRIPTION
**Pull request by dupuisf**
This PR implements the `push_neg` tactic. This code is based on https://github.com/leanprover-community/mathlib4/pull/193/ and on the original Lean 3 `push_neg` code. It notably implements a new feature: if `set_option push_neg.use_distrib true` is set, then it performs `(¬ (p ∧ q)) = (¬ p ∨ ¬ q)` instead of `(¬ (p ∧ q)) = (p → ¬ q)`.

Note: I'm not too sure what the conventions are for options (i.e. is `push_neg.use_distrib` an appropriate name?). Also, I don't know what the "group" string of the option is for, so I left it blank.

Co-authored-by: @j-loreaux

### CODE REVIEW

File: Mathlib/Tactic/PushNeg.lean [hunk 1]
```diff
@@ -0,0 +1,133 @@
...
+  let mkSimpStep (e : Expr) (pf : Expr) : Simp.Step :=
+    Simp.Step.visit { expr := e, proof? := some pf }
+  let distrib_mode ← getBoolOption `push_neg.use_distrib
+  let e_whnf ← whnfR e
+  let some ex := e_whnf.not? | return Simp.Step.visit { expr := e }
+  match ex.getAppFnArgs with
+  | (``Not, #[e]) =>
+      return mkSimpStep e (←mkAppM ``not_not_eq #[e])
+  | (``And, #[p, q]) =>
+      match distrib_mode with
```
Comment (digama0) [inline Mathlib/Tactic/PushNeg.lean:42]:
```suggestion
  let e_whnf ← whnfR e
  let some ex := e_whnf.not? | return Simp.Step.visit { expr := e }
  match ex.getAppFnArgs with
  | (``Not, #[e]) =>
      return mkSimpStep e (←mkAppM ``not_not_eq #[e])
  | (``And, #[p, q]) =>
      match ← getBoolOption `push_neg.use_distrib with
```

File: Mathlib/Tactic/PushNeg.lean [hunk 2]
```diff
@@ -0,0 +1,133 @@
...
+      return mkSimpStep (← mkAppM ``Eq #[e₁, e₂]) (← mkAppM ``not_ne_eq #[e₁, e₂])
+  | (``LE.le, #[_ty, _inst, e₁, e₂]) =>
+      return mkSimpStep (← mkAppM ``LT.lt #[e₂, e₁]) (← mkAppM ``not_le_eq #[e₁, e₂])
+  | (``LT.lt, #[_ty, _inst, e₁, e₂]) =>
+      return mkSimpStep (← mkAppM ``LE.le #[e₂, e₁]) (← mkAppM ``not_lt_eq #[e₁, e₂])
+  | (``Exists, #[_, e]) =>
+      match e with
+      | (Expr.lam n typ bo bi) => do
+        return mkSimpStep (.forallE n typ (← mkAppM `Not #[bo]) bi) (← mkAppM ``not_exists_eq #[e])
+      | _ => return Simp.Step.visit { expr := e }
```
Comment (digama0) [inline Mathlib/Tactic/PushNeg.lean:59]:
```suggestion
  | (``Exists, #[_, .lam n typ bo bi]) =>
    return mkSimpStep (.forallE n typ (← mkAppM `Not #[bo]) bi) (← mkAppM ``not_exists_eq #[e])
```

File: test/push_neg.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+  exact h
+
+example : (¬ ∀(x : α), p' x) → (∃(x : α), ¬ p' x) :=by
+  intro h
+  push_neg at h
+  exact h
+
+example (p : Bool) : decide (¬ ¬ p) = p := by
+  push_neg
+  induction p
```
Comment (digama0) [inline test/push_neg.lean:34]:
```suggestion
  guard_target == decide p = p
  cases p <;> rfl
```

File: test/push_neg.lean [hunk 4]
```diff
@@ -0,0 +1,82 @@
...
+  simp
+  simp
+
+example : ((fun x => x+x) 1) = 2 := by
+  push_neg
+  simp
```
Comment (digama0) [inline test/push_neg.lean:40]:
```suggestion
  guard_target == 1 + 1 = 2
  simp
```

**Comment by dupuisf** [comment]
I just implemented the suggestions, and changing the main loop to return an `Option (Simp.Step)`, to be able to distinguish the case where we find nothing to push from the case when we do but the proof is `rfl`.

File: Mathlib/Tactic/Basic.lean [hunk 5]
```diff
@@ -274,3 +274,8 @@ elab (name := clearAuxDecl) "clear_aux_decl" : tactic => withMainContext do
     if ldec.isAuxDecl then
       g ← Meta.tryClear g ldec.fvarId
   replaceMainGoal [g]
+
+register_option push_neg.use_distrib : Bool :=
```
Comment (dwrensha) [inline Mathlib/Tactic/Basic.lean:278]: Why is this here rather than in `Mathlib/Tactic/PushNeg.lean`?

Comment (dupuisf) [reply Mathlib/Tactic/Basic.lean]: I originally put it there because the option doesn't work in the file in which it is defined, but since `PushNeg.lean` doesn't need to actually set the option, it's fine to put it there after all. I have now changed it.

File: Mathlib/Tactic/PushNeg.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+    { config := { eta := true },
+      simpTheorems := #[ ]
+      congrTheorems := (← getSimpCongrTheorems) }
+  let goal ← getMainGoal
+  let myres := ← Simp.main tgt myctx (methods := { pre := transformNegation })
+  let some ⟨_, newGoal⟩ ← applySimpResultToLocalDecl goal fvarId myres False | throwError "fail"
+  replaceMainGoal [newGoal]
+
+/--
+Push negations in the goal of some assumption.
```
Comment (semorrison) [inline Mathlib/Tactic/PushNeg.lean:107]:
```suggestion
Push negations into the conclusion of a hypothesis.
```
I think using "goal" here is quite confusing. Also, it's probably more readable if we are consistent about hypothesis/assumption.

Comment (semorrison) [reply Mathlib/Tactic/PushNeg.lean:107]: LGTM otherwise!

**Comment by dupuisf** [comment]
Note that I uncovered a missing case when doing one last check: given an expression like `¬(x = 0 → y = 0)`, we have to check that the left side of the arrow is a prop, otherwise it is treated like a for-all. This is now fixed.

**Comment by gebner** [comment]
bors merge
